US07037929B1
Preparation of N-(5-Bromo-thiazol-2-yl)-2-ethoxy-acetamide
EDCI (0.53 g, 2.78 mmol) was added to a solution of ethoxyacetic acid (0.29 g, 2.78 mmol) in CH2Cl2 (5 ml) under ice-cooling. After stirring for 1 h, a solution of 2-amino-5-bromothiazole hydrobromide (0.60 g, 2.31 mmol) and diisopropylethylamine (0.40 ml, 2.34 mmol) in CH2Cl2 (5 ml) was added dropwise, and the entire mixture was kept at 0° C. for 1 h, then at room temperature overnight. The solution was evaporated and the residue partitioned between ethyl acetate and water. The ethyl acetate layer was further washed with water, 5% citric acid, water, saturated sodium bicarbonate, and water. Drying over sodium sulfate and evaporation gave a solid which was triturated with isopropyl ether to give the title compound as a beige solid (0.43 g; 70%)

reactant | EDCI | 2.78 mmol, 0.53 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | ethoxyacetic acid | 2.78 mmol, 0.29 g | C(C)OCC(=O)O | C4H8O3
reactant | 2-amino-5-bromothiazole hydrobromide | 2.31 mmol, 0.60 g | Br.NC=1SC(=CN1)Br
reactant | diisopropylethylamine | 2.34 mmol, 0.40 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(5-Bromo-thiazol-2-yl)-2-ethoxy-acetamide | 0.43 g, 70% | BrC1=CN=C(S1)NC(COCC)=O | C7H9BrN2O2S
